US04851387
254 mg of 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)propyl]-2-propenoic acid isobutylamide was dissolved in 3 ml of ethanol. Then, a palladium black catalyst was added thereto, and hydrogen was continuously blown into the solution under atmospheric pressure for 4 hours. Then, the catalyst was filtered off, and a fresh palladium black catalyst was added. Then, hydrogen was continuously brown into the solution for further 4 hours. The catalyst was filtered off, and the reaction solution was concentrated and dried under reduced pressure to obtain 180 mg of (2RS,4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)propyl]-7-methyl-octanoic acid isobutylamide as a solid substance.

reactant | 3-[(4S,5S)-3-benzyloxycarbonyl-4-isobutyl-2,2-dimethyloxazolidin-5-yl]-2-[2-(2-tetrahydropyranyloxy)propyl]-2-propenoic acid isobutylamide | 254 mg | C(C(C)C)NC(C(=C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OCC1=CC=CC=C1)CC(C)C)CC(C)OC1OCCCC1)=O | C32H50N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2RS,4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)propyl]-7-methyl-octanoic acid isobutylamide | 180 mg | C(C(C)C)NC(C(C[C@@H]([C@H](CC(C)C)N)O)CC(C)OC1OCCCC1)=O | C21H42N2O4
